US08461330B2
Step 4. N-[2-(dimethylamino)-1-methyl-2-oxoethyl]-2-fluoro-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]benzamide
N,N-Diisopropylethylamine (31 μL, 0.18 mmol) was added to a mixture of 2-(2-fluoro-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]benzoylamino)propanoic acid (29.7 mg, 0.06 mmol), dimethylamine (4.0 mg, 0.09 mmol) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (40 mg, 0.09 mmol) in N,N-dimethylformamide (0.5 mL). The reaction mixture was stirred overnight at RT and purified by RP-HPLC (pH 10) to afford the desired product. LCMS: (M+H)=523.1.

reactant | N,N-Diisopropylethylamine | 0.18 mmol, 31 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-(2-fluoro-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]benzoylamino)propanoic acid | 0.06 mmol, 29.7 mg | FC1=C(C(=O)NC(C(=O)O)C)C=CC(=C1)C=1C=NC=2N(C1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2 | C28H22FN5O3
reactant | dimethylamine | 0.09 mmol, 4.0 mg | CNC | C2H7N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.09 mmol, 40 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | N-[2-(dimethylamino)-1-methyl-2-oxoethyl]-2-fluoro-4-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]benzamide | CN(C(C(C)NC(C1=C(C=C(C=C1)C=1C=NC=2N(C1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2)F)=O)=O)C | C30H27FN6O2
